US07576115B2
Synthesis of 4-{[(2-{[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]methylene}hydrazino)carbonothioyl]amino}benzoic acid
2-(3,4-Dichlorophenyl)-3-hydroxy-4-formylthiophene (52 mg, 0.19 mmol) synthesized in Reference Synthetic Example 26 and 4-hydrazinocarbonothioylaminobenzoic acid (40 mg, 0.19 mmol) were stirred with dimethylformamide (1.9 mL) and concentrated hydrochloric acid (0.1 mL) at room temperature for 14 hours. Water was added to the reaction solution, and the precipitated solid was recovered by filtration and dried. The crude product was stirred with chloroform at room temperature and recovered by filtration to give the desired product as a pale yellow solid (58 mg, yield 65%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-formylthiophene | 0.19 mmol, 52 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C=O | C11H6Cl2O2S
reactant | 4-hydrazinocarbonothioylaminobenzoic acid | 0.19 mmol, 40 mg | N(N)C(=S)NC1=CC=C(C(=O)O)C=C1 | C8H9N3O2S
reactant | dimethylformamide | 1.9 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
solvent | Water | O | H2O
product | 4-{[(2-{[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]methylene}hydrazino)carbonothioyl]amino}benzoic acid | 58 mg, yield 65% | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C=NNC(=S)NC1=CC=C(C(=O)O)C=C1)O | C19H13Cl2N3O3S2
